US04283403
5-isothiocyanatomethyl-3-(3-methylthio-6-nitro-5-phenylphenyl)-2-isoxazoline
The preferred compounds are 5-isothiocyanatomethyl-3-(4-chlorophenyl)-2-isoxazoline, 5-isothiocyanatomethyl-3-(4-trifluoromethylphenyl)-2-isoxazoline, 3-(2,6-dichlorophenyl)-5-isothiocyanatomethyl-2-isoxazoline, 5-isothiocyanatomethyl-3-(4-methylphenyl)-2-isoxazoline, and 5-isothiocyanatomethyl-3-(2-pyridyl)-2-isoxazoline.

reactant | 5-isothiocyanatomethyl-3-(4-chlorophenyl)-2-isoxazoline | N(=C=S)CC1CC(=NO1)C1=CC=C(C=C1)Cl | C11H9ClN2OS
reactant | 5-isothiocyanatomethyl-3-(4-trifluoromethylphenyl)-2-isoxazoline | N(=C=S)CC1CC(=NO1)C1=CC=C(C=C1)C(F)(F)F | C12H9F3N2OS
reactant | 3-(2,6-dichlorophenyl)-5-isothiocyanatomethyl-2-isoxazoline | ClC1=C(C(=CC=C1)Cl)C1=NOC(C1)CN=C=S | C11H8Cl2N2OS
reactant | 5-isothiocyanatomethyl-3-(4-methylphenyl)-2-isoxazoline | N(=C=S)CC1CC(=NO1)C1=CC=C(C=C1)C | C12H12N2OS
reactant | 5-isothiocyanatomethyl-3-(2-pyridyl)-2-isoxazoline | N(=C=S)CC1CC(=NO1)C1=NC=CC=C1 | C10H9N3OS
product | 5-isothiocyanatomethyl-3-(3-methylthio-6-nitro-5-phenylphenyl)-2-isoxazoline | N(=C=S)CC1CC(=NO1)C1=CC(=CC(=C1[N+](=O)[O-])C1=CC=CC=C1)SC | C18H15N3O3S2
